US07687510B2
Ethyl 6-methyl-4-(4-nitrophenyl)-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetra-hydropyrimidine-5-carboxylate
7.84 g (38.4 mmol) N-[3-(trifluoromethyl)phenyl]urea, 5.81 g (38.4 mmol) 4-nitro-benzaldehyde, 5.0 g (38.4 mmol) ethyl 3-oxobutanoate and 15 g polyphosphoric acid ethyl ester are suspended in 100 ml of THF. The mixture is stirred at reflux for 18 hours. After cooling down to room temperature, the solvent is removed in vacuo and the residue is purified by column chromatography on silica with toluene/etiyl acetate as eluent.

reactant | N-[3-(trifluoromethyl)phenyl]urea | 38.4 mmol, 7.84 g | FC(C=1C=C(C=CC1)NC(=O)N)(F)F | C8H7F3N2O
reactant | 4-nitro-benzaldehyde | 38.4 mmol, 5.81 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | ethyl 3-oxobutanoate | 38.4 mmol, 5.0 g | O=C(CC(=O)OCC)C | C6H10O3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | Ethyl 6-methyl-4-(4-nitrophenyl)-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetra-hydropyrimidine-5-carboxylate | CC1=C(C(NC(N1C1=CC(=CC=C1)C(F)(F)F)=O)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC | C21H18F3N3O5
